Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vomiting and chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female transferred from ___ for evaluation of 
pneumomediastinum. Patient has a history of cyclic vomiting 
thought to be due to marijuana use. She has had severe vomiting 
since ___, developed upper chest pain and went to ___ 
___. CT chest showed pneumomediastinum, without 
extraluminal PO contrast. In addition, she made several comments 
endorsing suicidality to physicians at that facility, and was 
placed on a ___. She received Zosyn, vancomycin, Reglan, 
Protonix, saline, Benadryl, Diflucan at ___ prior 
to transfer.

Patient denies bright red blood in emesis, but endorses coffee 
grounds emesis. She has noted bright red blood in the past, but 
not with this episode. Last episode of emesis was ___. She 
endorses sore throat, but no pain with swallowing or difficulty 
swallowing. Not currently feeling nauseated, no pain. Tolerated 
PO medications in ED. Denies fevers, chills. 

Patient reports onset of cyclic vomiting syndrome ___. She 
says she has had episodes of vomiting usually starting at the 
beginning of every month, lasting between 1 day to 2 weeks. 
During this time she is unable to eat or drink and reports 
frequent admissions for inability to tolerate POs and 
dehydration, patient thinks she has presented to an ED 2 times 
per month for the past ___ years. Episodes are sometimes triggered 
by anxiety, but not always. She reports PO antiemetics do not 
help, and cycles are only broken with IV reglan or Compazine and 
benadyl. Before the onset of episodes, patient usually has 
anxiety, palpitations, feels restless, and described a tightness 
in her arms. 

She started using marijuana occasionally in ___, increasing in 
frequency to daily use by ___. After onset of cyclic vomiting 
syndrome, patient began smoking less, but increased again to 
everyday use in ___. The last time she smoked was 
___, and had onset of nausea and vomiting the next day. 

She reports she was seen by a neurologist, who concluded she had 
___. Her mother has a history of abdominal migraines associated 
with her periods, however the patient's episodes are not 
associated with her menstruation. ___ is thought to be ___ 
marijuana use. 

Patient also reports intermittent, sharp, stabbing pain in her 
right flank for the past ___ years. Usually pain resolved on own, 
however with this episode of vomiting the pain was ___, 
causing her to present to ___. Previously the flank pain 
and episodes of vomiting were not associated. The pain felt the 
same as her chronic pain, but increased intensity. She denies 
dysuria. One episode of yellow diarrhea when arrived on floor. 

Patient reports SI and cutting to relieve feeling helpless in 
setting of cyclic vomiting. Per patient, she has had 3 psych 
admissions for depression and SI. 

In the ED:
Patient was continued on zosyn, given 0.5mg Ativan, 500ml normal 
saline, odansetron 4mg, home fluoxetine and pantoprazole.
Esophagram showed no evidence of esophageal leak or obstruction. 


On arrival to the floor: 
Patient arrived with sitter. She is on a clear diet, with no 
further emesis. On zosyn. No nausea, no further emesis.
 
ROS:  
Nausea, vomiting
1x diarrhea
No fevers, chills. No cough, no shortness of breath, no dyspnea 
on exertion. No chest pain or palpitations. No constipation. No 
dysuria or hematuria. No hematochezia, no melena. No numbness or 
weakness, no focal deficits.  
 
 
 
Past Medical History:
MEDICAL & SURGICAL HISTORY: 
Depression
Cannabinoid hyperemesis 

 
Social History:
___
Family History:
FAMILY HISTORY:
mother - abdominal migraines associated w/ menstruation
grandfather - DM
grandfather - died of lung CA
mothers family - strong history of depression

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
Vitals:  98.0 94/69 80 20 97%Ra 
General: alert, oriented, no acute distress
Eyes:  Sclera anicteric
HEENT: MMM, oropharynx clear 
Resp: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
GI: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
MSK: warm, well perfused, no clubbing, cyanosis or edema  
Neuro: motor function grossly normal  

DISCHARGE PHYSICAL EXAM:
========================
Vitals:  98.0 97/56 69 20 98%Ra 
General: alert, oriented, no acute distress
Eyes:  Sclera anicteric
HEENT: MMM, oropharynx clear 
Resp: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
GI: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
MSK: warm, well perfused, no clubbing, cyanosis or edema  
Neuro: motor function grossly normal

 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:40PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:40PM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 06:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-8.5* 
LEUK-NEG
___ 06:40PM URINE  RBC-6* WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-10
___ 06:40PM URINE  MUCOUS-RARE*
___ 05:00PM   LACTATE-1.3
___ 04:40PM   GLUCOSE-86 UREA N-13 CREAT-0.6 SODIUM-137 
POTASSIUM-3.4 CHLORIDE-102 TOTAL CO2-20* ANION GAP-15
___ 04:40PM   estGFR-Using this
___ 04:40PM   ALT(SGPT)-16 AST(SGOT)-23 ALK PHOS-52 TOT 
BILI-1.2
___ 04:40PM   LIPASE-33
___ 04:40PM   ALBUMIN-4.1
___ 04:40PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:40PM   WBC-11.6* RBC-3.95 HGB-10.8* HCT-32.5* MCV-82 
MCH-27.3 MCHC-33.2 RDW-13.2 RDWSD-39.7
___ 04:40PM   NEUTS-70.9 ___ MONOS-9.2 EOS-0.1* 
BASOS-0.1 IM ___ AbsNeut-8.24* AbsLymp-2.25 AbsMono-1.07* 
AbsEos-0.01* AbsBaso-0.01
___ 04:40PM   PLT COUNT-229
___ 04:40PM   ___ PTT-25.6 ___
___ 06:47AM   GLUCOSE-75 UREA N-13 CREAT-0.8 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-22 ANION GAP-15
___ 06:47AM   CALCIUM-9.2 PHOSPHATE-4.1 MAGNESIUM-2.2

DISCHARGE LABS:
==============
___ 06:50AM BLOOD WBC-6.1 RBC-4.30 Hgb-11.9 Hct-36.3 MCV-84 
MCH-27.7 MCHC-32.8 RDW-13.2 RDWSD-40.8 Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-81 UreaN-10 Creat-0.8 Na-142 
K-4.1 Cl-103 HCO3-24 AnGap-15

MICRO:
=====
UCx: no growth
Blood Cx: pending

IMAGING:
=======
CXR ___:
Grossly similar appearance of small to moderate volume 
pneumomediastinum 
compared to prior chest CT. 

Esophagram ___:
No evidence of esophageal leak or obstruction.

EKG: QTc ___ female with history of depression, cyclic vomiting syndrome 
thought to be ___ marijuana use transferred from OSH with chest 
pain found to have pneumomediastinum without evidence of 
esophageal leak or obstruction and suicidal ideation. 

#pneumomediastinum
Patient developed acute onset of chest pain in the setting of 
prolonged vomiting, found to have pneumomediastinum at OSH. No 
evidence of esophageal leak or obstruction. Started on vanc/ 
zosyn at OSH, narrowed to zosyn, then transitioned to PO 
augmentin. Patient initially NPO, diet advanced to mechanical 
soft given patient was afebrile, resolved leukocytosis, and 
clinically stable. Patient will be discharged on augmentin x 7 
days, soft diet x 7 days.

#suicidal ideation
#depression
Patient has a history of depression and self cutting, to relieve 
feelings of helplessness in setting of cyclic vomiting. At OSH, 
had SI and was put on ___. Psych consulted and determined 
patient no longer needed ___ and recommended outpatient 
follow-up with PCP to be connected to a therapist, as well as 
considering decreasing the dose of Ativan given concern for 
development of dependence, and reinforcement that marijuana is 
causing the cyclic vomiting syndrome and encourage patient to 
stop using. Continued home fluoxetine and lorazepam 1mg BID for 
anxiety (patient reported taking at home standing). 

#cyclic vomiting syndrome
Patient has a history of cyclic vomiting syndrome since ___ 
thought to be ___ marijuana use, with frequent hospitalizations 
for vomiting, on home reglan but reports only IV antiemetics 
(reglan or Compazine) help. QTc was 491. Patient was given IV 
Compazine PRN for nausea, nausea and vomiting resolved. Patient 
will be referred to an outpatient gastroenterologist for further 
work-up. 

#substance use
Patient uses marijuana frequently to daily, tox screen negative 
upon admission however she reports a history of using mushrooms, 
cocaine, Xanax, and Percocet. Marijuana use is contributing to 
cyclic vomiting syndrome, this was re-iterated to patient and 
cessation recommended. 

TRANSISTIONAL ISSUES:
=====================
- Patient will be discharged on a 7 day course of augmentin and 
soft diet, to end on ___. 
- Patient will need to follow-up with PCP, and we recommend 
connection to a therapist or psychiatrist for further management 
of depression, anxiety, and substance abuse.
- Patient should see an outpatient gastroenterologist for 
work-up and management of the cyclic vomiting syndrome. 
- Blood cx were pending at time of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 20 mg PO DAILY 
2. LORazepam 1 mg PO Q8H:PRN anxiety 
3. Metoclopramide 10 mg PO TID:PRN nausea 
4. Pantoprazole 40 mg PO Q24H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
pneumomediastinum

Secondary:
cyclic vomiting syndrome/ cannabinoid hyperemesis
depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Why you were here:
=================
You were seen for nausea, vomiting, and chest pain. You went to 
___ where they had concern for extra air in your 
chest, which can be concerning for a tear in your esophagus. You 
were transferred to ___ for further evaluation.

What we did while you were here:
================================
You had an esophagram, an imaging study of your throat and 
esophagus which showed no visible tear or leak. We continued one 
of the antibiotics started at ___, called zosyn. 
You then were allowed to drink and eat and we started giving you 
oral antibiotics to prevent an infection. You were also given 
anti-nausea medication and IV fluids. 

While you were in the ED, you also had some thoughts about 
harming yourself. You were seen by psychiatry.

What to do when you go home:
============================
- Continue taking the antibiotic, augmentin 875 mg by mouth 
every 12 hours, through ___.
- Only eat soft foods through ___ to allow your throat to 
heal. On ___ you can resume a regular diet. 
- Follow-up with your PCP in clinic, your PCP should refer you 
to a therapist to help you manage your depression and anxiety, 
and a gastroenterologist for further management of your cyclic 
vomiting syndrome. 
 
Followup Instructions:
___